US08202873B2
3′-(4-Methoxymethyl-phenyl)-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride
Stir 3′-(4-methoxymethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride (312 mg, 0.87 mmol) in dry tetrahydrofuran (10 mL), and add 1,3-dimethyl-1H-pyrazole-4-carbaldehyde (138 mg, 0.87 mmol). Stir at room temperature for 15 min., and then add sodium triacetoxyborohydride (171 mg, 1.04 mmol). Stir the reaction for 17 hr. at room temperature, then at 50° C. for 20 hr. under nitrogen. Pour the reaction mixture into saturated aq. sodium bicarbonate (20 mL), extract with DCM (3×20 mL) and pass through an IST Phase Separator Frit®. Concentrate and purify using silica gel chromatography (eluting with 2:98 to 5:95 methanol:DCM). Dissolve the oil in acetonitrile and convert to the hydrochloride salt by adding 2 M aq HCl solution. Add water and lyophilize, then free base using an SCX-2® ion exchange cartridge. Further purify by low pH reverse phase HPLC. Form the free base by passing through an SCX-2® ion exchange cartridge washing with methanol then eluting with 3 M ammonia in methanol and concentrate. Dissolve the solid in acetonitrile and convert to the hydrochloride salt by adding 2 M aq HCl solution. Add water and lyophilize to give the title compound as a bright yellow solid (80 mg, 22%). MS (ES): m/z=393 [M+H]+.

reactant | 3′-(4-methoxymethyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 0.87 mmol, 312 mg | Cl.Cl.COCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1
reactant | 1,3-dimethyl-1H-pyrazole-4-carbaldehyde | 0.87 mmol, 138 mg | CN1N=C(C(=C1)C=O)C | C6H8N2O
reactant | sodium triacetoxyborohydride | 1.04 mmol, 171 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3′-(4-Methoxymethyl-phenyl)-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride | 80 mg, 22% | Cl.COCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1)C)C | InChI=1S/C22H28N6O.ClH/c1-17-20(14-26(2)25-17)15-27-10-12-28(13-11-27)22-21(23-8-9-24-22)19-6-4-18(5-7-19)16-29-3;/h4-9,14H,10-13,15-16H2,1-3H3;1H
